US06187781B1
A solution of 5.00 g of N-t-butoxycarbonyl-3-oxopiperidine in 10 ml of tetrahydrofuran was added dropwise under ice-cooling to a Grignard reagent solution prepared from 4.73 g of bromobenzene and 0.79 g of magnesium in 50 ml of tetrahydrofuran. The mixture was stirred at room temperature for 1 hour, followed by cooling with ice, and 100 ml of a saturated aqueous solution of ammonium chloride was added thereto dropwise. The reaction mixture was extracted with ethyl acetate, and the extract was washed successively with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The desiccant was filtered off, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=3/1) to give 4.21 g of N-t-butoxycarbonyl-3-hydroxy-3-phenylpiperidine.

reactant | N-t-butoxycarbonyl-3-oxopiperidine | 5.00 g | C(C)(C)(C)OC(=O)N1CC(CCC1)=O | C10H17NO3
reactant | bromobenzene | 4.73 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 0.79 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-t-butoxycarbonyl-3-hydroxy-3-phenylpiperidine | 4.21 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(C1=CC=CC=C1)O | C16H23NO3
